US07074800B1
A mixture of (2S)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline (100 mg, 0.28 mmol), (prepared as described for the starting material in Example 297), and dimethylamine (0.42 ml of a 2M solution in THF, 0.84 mmol) in DMF (5 ml) was stirred at 75° C. for 3 hours under an atmosphere of nitrogen and then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue purified by trituration with methanol to give (2S)-7-(2-hydroxy-3-dimethylaminopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline (100 mg, 85%).

reactant | (2S)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 0.28 mmol, 100 mg | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1OC1 | C20H17N3O4
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (2S)-7-(2-hydroxy-3-dimethylaminopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline | 100 mg, 85% | O[C@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)CN(C)C | C22H24N4O4
